US06340691B1
Ethyl 2-{[4-(2-butynyloxy)phenyl]sulfonyl}-7-cyanoheptanoate was prepared according to the general method as outlined in example 1 (step 4), starting from (4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester (10 g, 33.8 mmol) and 6-bromohexanenitrile (4.48 ml, 33.8 mmol); 7.9 g white solid. mp 63° C.; Yield 60%; MS (EI): 391.4 (M+H)+

reactant | (4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester | 33.8 mmol, 10 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C14H16O5S
reactant | 6-bromohexanenitrile | 33.8 mmol, 4.48 ml | BrCCCCCC#N | C6H10BrN
product | Ethyl 2-{[4-(2-butynyloxy)phenyl]sulfonyl}-7-cyanoheptanoate | Yield 60% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C(C(=O)OCC)CCCCCC#N | C20H25NO5S
